US07714009B2
4-Bromo-N2-mesityl-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine
A mixture of 4-bromo-2-chloro-1-methyl-N,N-dipropyl-1H-benzimidazol-7-amine (220 mg, 0.638 mmol) and mesityl amine (1.79 ml, 12.8 mmol) was heated at 120° C. for 60 h. The mixture was dissolved in ethyl acetate and washed with saturated sodium bicarbonate in water, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by column chromatography eluting 5% n-hexane/ethyl acetate to afford the title compound.

reactant | 4-bromo-2-chloro-1-methyl-N,N-dipropyl-1H-benzimidazol-7-amine | 0.638 mmol, 220 mg | BrC1=CC=C(C=2N(C(=NC21)Cl)C)N(CCC)CCC | C14H19BrClN3
reactant | mesityl amine | 12.8 mmol, 1.79 ml | C1(=C(C(=CC(=C1)C)C)N)C | C9H13N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-N2-mesityl-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine | BrC1=CC=C(C=2N(C(=NC21)NC2=C(C=C(C=C2C)C)C)C)N(CCC)CCC | C23H31BrN4
